US05095013
Allyl (5R,6S)-2-[(2S,4S)-N-allyloxycarbonyl-2-hydroxymethylpyrrolidin-4-ylthio]-6-[(R)-1-allyloxycarbonyloxyethyl]-1-carbapen-2-em-3-carboxylate
To a solution of allyl (3R,5R,6S)-6-[(R)-1-allyloxycarbonyloxyethyl]-2-oxo-1-carbapenam-3-carboxylate (1.01 g, 3 mmol) and N,N-diisopropylethylamine (0.73 ml, 4.2 mmol) in acetonitrile (20 ml) was dropwise added diphenyl chlorophosphate (0.75-3.6 mmol) under ice-cooling, and then the mixture stirred for 30 minutes. The reaction mixture under ice-cooling was treated successively with N,N-diisopropylethylamine (0.73 μl, 4.2 mmol) and (2S,4S)-N-allyloxycarbonyl-2-hydroxymethyl-4-mercaptopyrrolidine (780 mg, 3.6 mmol) in acetonitrile (4 ml), stirred for 1 hour, and partitioned between ethyl acetate (60 ml) and water (40 ml). The organic layer was successively washed with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, concentrated, and the residue purified by flash column chromatography on silica gel (Wakogel® C-300, 40 ml, elution with ethyl acetate-hexane 1:1) to afford the title compound (1.20 g, 75% yield).

reactant | allyl (3R,5R,6S)-6-[(R)-1-allyloxycarbonyloxyethyl]-2-oxo-1-carbapenam-3-carboxylate | 3 mmol, 1.01 g | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N([C@H](C(C2)=O)C(=O)OCC=C)C1=O | C16H19NO7
reactant | N,N-diisopropylethylamine | 4.2 mmol, 0.73 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenyl chlorophosphate | 0.75-3.6 mmol | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | N,N-diisopropylethylamine | 4.2 mmol, 0.73 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2S,4S)-N-allyloxycarbonyl-2-hydroxymethyl-4-mercaptopyrrolidine | 3.6 mmol, 780 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)CO | C9H15NO3S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | Allyl (5R,6S)-2-[(2S,4S)-N-allyloxycarbonyl-2-hydroxymethylpyrrolidin-4-ylthio]-6-[(R)-1-allyloxycarbonyloxyethyl]-1-carbapen-2-em-3-carboxylate | 1.20 g, 75% yield | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC=1C[C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)OC(=O)OCC=C)=O)CO | C25H32N2O9S
